US06884907B2
To stirring acetonitrile were added N-benzyloxy-3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-N-(2,4,6-trimethoxybenzyl)-propanamide (10.0 g, 19.9 mmol), methyl 4-(bromomethyl)benzoate (5.02 g, 21.9 mmol), potassium carbonate (4.125 g, 29.9 mmol), and benzyltriethylammonium chloride (6.799 g, 29.9 mmol). This reaction mixture was heated to 65° C. for 5 h. The reaction mixture was then allowed to cool and extracted with 100 mL of 10% KHSO4, 50 mL (3 times) of EtOAc, brine and then dried over Na2SO4. The crude product was purified by flash column chromatography (40% EtOAc in hexanes) to give 10.01 g of 5-{3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2,2-dimethyl-5-[4-(methoxycarbonyl)phenyl]methyl-[1,3]dioxane-4,6-dione as a white powder (78% yield).

reactant | N-benzyloxy-3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-N-(2,4,6-trimethoxybenzyl)-propanamide | 19.9 mmol, 10.0 g | C(C1=CC=CC=C1)ON(C(CCC1C(OC(OC1=O)(C)C)=O)=O)CC1=C(C=C(C=C1OC)OC)OC | C26H31NO9
reactant | methyl 4-(bromomethyl)benzoate | 21.9 mmol, 5.02 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | potassium carbonate | 29.9 mmol, 4.125 g | C([O-])([O-])=O.[K+].[K+]
catalyst | benzyltriethylammonium chloride | 29.9 mmol, 6.799 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-{3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2,2-dimethyl-5-[4-(methoxycarbonyl)phenyl]methyl-[1,3]dioxane-4,6-dione | 10.01 g, 78% yield | C(C1=CC=CC=C1)ON(C(CCC1(C(OC(OC1=O)(C)C)=O)CC1=CC=C(C=C1)C(=O)OC)=O)CC1=C(C=C(C=C1OC)OC)OC | C35H39NO11
